US04500538
To a stirred solution of 6-hydroxy-2-benzothiazolesulfonamide (3.45 g 0.015 mole) and 4-dimethylaminopyridine (200 mg) in pyridine (25 ml) was added ethylchloroformate (1.9 ml). The reaction mixture was stirred at 25° C. for 2 hours, poured into ice and excess hydrochloric acid, extracted with ethyl acetate, washed with water, dried over magnesium sulfate and chromatographed after evaporation of the solvent on silica (150 g, 70-230 mesh) eluting with ethyl acetate-hexane 1:1 (v/v) to obtain 1.3 g of ethyl(2-sulfamoyl-6-benzothiazolyl)carbonate which melts at 144°-6° C.

reactant | 6-hydroxy-2-benzothiazolesulfonamide | 0.015 mole, 3.45 g | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | ethylchloroformate | 1.9 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | ethyl(2-sulfamoyl-6-benzothiazolyl)carbonate | 1.3 g | CCOC(=O)OC1=CC2=C(C=C1)N=C(S2)S(=O)(=O)N | C10H10N2O5S2
